US07217736B2
2,3,4,5,6-Pentafluorobenzyl 5-amino-4-oxopentanoate hydrochloride [compound 18]
From 2,3,4,5,6-pentafluorobenzyl alcohol (5.1 g; 26 mmol) and 5-amino-4-oxopentanoic acid hydrochloride (1.0 g; 6.0 mmol). The reaction was complete after 6 days at 100° C. The yield was 0.25 g (13%). Mp 146–148° C.

reactant | 2,3,4,5,6-pentafluorobenzyl alcohol | 26 mmol, 5.1 g | FC1=C(CO)C(=C(C(=C1F)F)F)F | C7H3F5O
reactant | 5-amino-4-oxopentanoic acid hydrochloride | 6.0 mmol, 1.0 g | Cl.NCC(CCC(=O)O)=O
product | 2,3,4,5,6-Pentafluorobenzyl 5-amino-4-oxopentanoate hydrochloride | Cl.NCC(CCC(=O)OCC1=C(C(=C(C(=C1F)F)F)F)F)=O | InChI=1S/C12H10F5NO3.ClH/c13-8-6(9(14)11(16)12(17)10(8)15)4-21-7(20)2-1-5(19)3-18;/h1-4,18H2;1H
